US04873236
11-[[[2-[4-[3-[Bis(methylethyl)amino]propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-[3-[bis(methylethyl)amino]propyl]-piperidin-l-yl]ethanamine in a yield of 44% of theory. Colourless crystals, m.p. 175°-176° C. (acetonitrile).

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | 2-[4-[3-[bis(methylethyl)amino]propyl]-piperidin-l-yl]ethanamine | CC(C)N(CCCC1CCN(CC1)CCN)C(C)C | C16H35N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[[2-[4-[3-[Bis(methylethyl)amino]propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 44% | CC(C)N(CCCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=C(C=C3)Cl)=O)C=CC=N2)C(C)C | C29H41ClN6O2
